US08044069B2
1-{2-oxo-2-[5-(trifluoromethyl)-1,3-dihydro-2H-isoindol-2-yl]ethyl}-3,3-diphenylpyrrolidin-2-one
A solution of 5-(trifluoromethyl)isoindoline (0.035 g, 0.186 mmol), 2-(2-oxo-3,3-diphenylpyrrolidin-1-yl)acetic acid (0.050 g, 0.169 mmol) and N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride (0.049 g, 0.254 mmol) in dichloromethane (0.5 mL) was stirred at room temperature. After stirring overnight, the reaction was loaded directly onto a SF15-12 silica gel column (Analogix®, Burlington, Wis.), and the title compound was eluted using a gradient of 5% to 100% ethyl acetate/hexanes over 20 minutes (flow=30 mL/minute). 1H NMR (300 MHz, CDCl3) δ ppm 7.54-7.61 (m, 1H), 7.20-7.49 (m, 12H), 4.82-4.88 (m, 4H), 4.24 (s, 2H), 3.61 (td, J=6.5, 1.6 Hz, 2H), 2.85 (t, J=6.6 Hz, 2H); MS (ESI+) m/z 465 (M+H)+.

reactant | 5-(trifluoromethyl)isoindoline | 0.186 mmol, 0.035 g | FC(C=1C=C2CNCC2=CC1)(F)F | C9H8F3N
reactant | 2-(2-oxo-3,3-diphenylpyrrolidin-1-yl)acetic acid | 0.169 mmol, 0.050 g | O=C1N(CCC1(C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)O | C18H17NO3
reactant | N1-((ethylimino)methylene)-N3,N3-dimethylpropane-1,3-diamine hydrochloride | 0.254 mmol, 0.049 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 1-{2-oxo-2-[5-(trifluoromethyl)-1,3-dihydro-2H-isoindol-2-yl]ethyl}-3,3-diphenylpyrrolidin-2-one | O=C(CN1C(C(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)N1CC2=CC=C(C=C2C1)C(F)(F)F | C27H23F3N2O2
